Name:  ___              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Shellfish
 
Attending: ___.
 
Chief Complaint:
Septic Arthritis, Foot Cellulitis, Bacteremia
 
Major Surgical or Invasive Procedure:
___- Incision and Drainage of Left shoulder joint by Dr. 
___
___- PICC line placement in Right arm

 
History of Present Illness:
___ year old Male with Type 2 Diabetes, CAD s/p 2 stents 
___ discharged after admission for shoulder and thigh 
pain thought to be myositis and sent out on steroids, who now 
presents from clinic with gram positive cocci from AC shoulder 
joint aspiration.

He originally presented ___ with progressive left 
shoulder, Right knee, and Left thigh pain for several weeks. 
During this hospitalization, a rheumatology consult was 
obtained. He had an MRI of the Left shoulder that showed edema 
in the trapezius and deltoid muscles, consistent with 
nonspecific myositis and trace amount of fluid in the 
acromioclavicular joint. MRI of the thigh showed myositis 
involving the left quadriceps. Ultrasound of the shoulder showed 
no focal fluid collection. A muscle biopsy of the left shoulder 
muscle was also performed, final path is still pending but gram 
stain was negative and to date tissue cultures have been 
negative. Remainder of the extensive workup included: lyme, ASO, 
and blood cultures that have all been negative, GC/chlamydia 
still are pending. Pt was sent home and started a short course 
of steroids which he completed ___ for presumed inflammatory 
myositis.  

Pt states that on discharge he had some improvement in his 
shoulder pain with the steroids. On day of admission, he had 
fevers to 101, rigors and chills. He denies rash, nausea, 
dyspnea, recent trauma or surgeries.  

He was seen by his PCP on the day of admission for increaced 
pain and new cellulities of the Left foot. Labs showed elevated 
ESR/CRP (100/202) concerning for acute infection. He was then 
evaluated by rheumatology, where his AC joint was again 
aspirated this time with fluid washout and a prelim 
culture/gramstain grew gram positive cocci.

In the ED, initial VS: T 989.8, BP 107/56, HR 73, RR 18. His 
labs were notable for leukocytosis 16.7 w/ left shift, UA neg, 
Cr 1.2. CXR wnl. Ortho was consulted who recommended iv abx, 
admission for washout of the AC joint in the OR. Pt received iv 
zosyn/vancomycin. 
 
Past Medical History:
DM (DIABETES MELLITUS), TYPE 2, UNCONTROLLED  
Familial hemochromatosis H63D Carrier  
MAJOR DEPRESSIVE DISORDER, RECURRENT EPISODE, UNSPECIFIED  
NEPHROLITHIASIS  
CORONARY ARTERY DISEASE - NATIVE CORONARY ARTERY  
HISTORY COLONOSCOPY & POLYPECTOMY  
MYOCARDIAL INFARCTION  
CORONARY ANGIOPLASTY  
HYPERTENSION - ESSENTIAL 
s/p muscle biopsy of left deltoid ___ 
 
Social History:
___
Family History:
no h/o rheumatologic disease
 
Physical Exam:
PHYSICAL EXAM on admission:
VSS: 98.3, 120/60, 65, 16, 95%RA
GEN: NAD
Pain: ___
HEENT: EOMI, MMM, - OP Lesions, Fundus: limited by non-dilated 
but no ___ spots or other sx of embolic disease
PUL: CTA B/L
COR: RRR, S1/S2, - MRG
ABD: NT/ND, +BS, - CVAT
EXT: - CCE, no splinters, possible small lesion on left ___ 
digit, multiple small punctate lesions on right shin, Right 
great toe with plantar ulcer 2cm
NEURO: CAOx3, Non-Focal

Physical exam on Discharge:
98.6, 136/80, 66, 18, 98%RA
Gen: AAOx3, in NAD, appropriately conversant
HEENT:  EOMI, MMM
PUL: clear to auscultation bilaterally
Cardiac:  Regular rate and rhythm, no MRG appreciated
Abdomen: soft, nontender nondistended, no rebound tenderness. No 
palpable masses or organomegaly
Extremities:  Left shoulder. Deltoid scar is well held, no 
fluctuance, erythema or induration.  Incision and Drainage scar- 
well approximated with sutures intact, no erythema, warmth or 
edema. Left UE exma- decreased ROM, but able to lift upper arm 
off of bed against gravity.  Reflexes in tact, hand grip 
strength ___. Left foot- wrapped in dry gauze dressing, no 
erythema, edema or warmth.  Plantar ulcer located at the base of 
second digit.
Neuro: AAOx3, No focal deficits
 
Pertinent Results:
___ 11:38AM BLOOD WBC-16.5*# RBC-4.15* Hgb-12.9* Hct-40.4 
MCV-97 MCH-31.1 MCHC-31.9 RDW-12.7 Plt ___
___ 04:37AM BLOOD WBC-7.0 RBC-3.43* Hgb-10.3* Hct-31.2* 
MCV-91 MCH-30.2 MCHC-33.2 RDW-12.9 Plt ___
___ 11:38AM BLOOD Neuts-84.1* Lymphs-9.3* Monos-5.6 Eos-0.8 
Baso-0.2
___ 05:35AM BLOOD Neuts-69.4 ___ Monos-5.8 Eos-3.4 
Baso-0.4
___ 11:38AM BLOOD ESR-114*
___ 05:35AM BLOOD ESR-132*
___ 06:45PM BLOOD Glucose-103* UreaN-25* Creat-1.2 Na-136 
K-4.6 Cl-99 HCO3-26 AnGap-16
___ 05:35AM BLOOD Glucose-138* UreaN-14 Creat-0.9 Na-137 
K-4.5 Cl-101 HCO3-27 AnGap-14
___ 11:38AM BLOOD ALT-25 AlkPhos-227* TotBili-0.6
___ 05:35AM BLOOD ALT-15 AST-9 LD(LDH)-128 AlkPhos-392* 
TotBili-0.3
___ 04:37AM BLOOD ALT-15 AST-9 AlkPhos-348* TotBili-0.2
___ 06:40AM BLOOD Calcium-8.3* Phos-2.5* Mg-1.9
___ 05:35AM BLOOD Albumin-2.8* Calcium-9.0 Phos-4.1 Mg-2.1
___ 11:38AM BLOOD PTH-27
___ 11:38AM BLOOD CRP-202.4*
___ 05:35AM BLOOD CRP-253.0*
___ 11:38AM BLOOD C3-306* C4-49*

   Blood Culture, Routine (Final ___: 
      BETA STREPTOCOCCUS GROUP G. 
         SENSITIVITIES REQUESTED PER ___ ___ ___. 

         FINAL SENSITIVITIES. 
         This isolate is presumed to be resistant to clindamycin 
based on
         the detection of inducible resistance . 

                              SENSITIVITIES: MIC expressed in 
MCG/ML
                      
_________________________________________________________
                             BETA STREPTOCOCCUS GROUP G
                             |   
CLINDAMYCIN-----------       R
ERYTHROMYCIN----------     2 R
PENICILLIN G----------<=0.06 S
VANCOMYCIN------------   <=1 S

   Anaerobic Bottle Gram Stain (Final ___: 
      Reported to and read back by ___. ___ ON ___ AT 
0600. 
      GRAM POSITIVE COCCI IN PAIRS AND CHAINS. 

   Aerobic Bottle Gram Stain (Final ___: 
      GRAM POSITIVE COCCI IN PAIRS AND CHAINS. 

 -GRAM STAIN (Final ___: 
      NO POLYMORPHONUCLEAR LEUKOCYTES SEEN. 
      1+    (<1 per 1000X FIELD):   GRAM POSITIVE COCCI. 
                                    ___ IN PAIRS. 
      Reported to and read back by ___ ___ ___ 
___. 

   FLUID CULTURE (Final ___: 
      BETA STREPTOCOCCUS GROUP G.    SPARSE GROWTH. 
         OF TWO COLONIAL MORPHOLOGIES. 
___ 12:50 pm SWAB      LEFT AC JOINT . 

   GRAM STAIN (Final ___: 
      NO POLYMORPHONUCLEAR LEUKOCYTES SEEN. 
      NO MICROORGANISMS SEEN. 

   WOUND CULTURE (Final ___: 
      BETA STREPTOCOCCUS GROUP G.    SPARSE GROWTH. 

   ANAEROBIC CULTURE (Final ___:    NO ANAEROBES ISOLATED. 


   FUNGAL CULTURE (Preliminary): 
      NO FUNGUS ISOLATED. 
      A swab is not the optimal specimen for recovery of 
mycobacteria or
      filamentous fungi.  A negative result should be 
interpreted with
      caution.  Whenever possible tissue biopsy or aspirated 
fluid should
      be submitted. 

FOOT AP,LAT & OBL LEFT ___
Three views of the left foot demonstrate patchy osteopenia of 
the forefoot.
No frank osteomyelitis identified. No cortical erosions.
Small os naviculare and small os peroneum. Small dorsal and 
plantar calcaneal enthesophytes. Mild dorsal soft tissue 
swelling.

MRI of foot ___
1. No evidence of osteomyelitis of the first metatarsal head.
 
2. Diffuse edema pattern of the mid foot, in absence of direct 
extension of
soft tissue abnormality is suggestive of Charcot 
osteoarthropathy;
osteomyelitis is considered much less likely.
 
3. Tiny fluid collection at the plantar aspect of the second 
intermetatarsal space could be due to altered mechanics in the 
setting of neuroarthropathy however presence of infection is not 
excluded. Please note, that this would not be amenable to 
percutaneous aspiration. Larger focal fluid in close proximity 
to the peroneus longus tendon, similarly, can represent focal 
tenosynovitis, though, alternatively, infected fluid collection 
may be present.

Transthoracic Echo ___
The left atrium is elongated. The right atrium is moderately 
dilated. There is mild symmetric left ventricular hypertrophy. 
Overall left ventricular systolic function is normal (LVEF 70%). 
Right ventricular chamber size and free wall motion are normal. 
The ascending aorta is mildly dilated. The aortic arch is mildly 
dilated. The aortic valve leaflets (3) are mildly thickened but 
aortic stenosis is not present. No aortic regurgitation is seen. 
The mitral valve leaflets are mildly thickened. There is no 
mitral valve prolapse. Trivial mitral regurgitation is seen. The 
left ventricular inflow pattern suggests impaired relaxation. 
The pulmonary artery systolic pressure could not be determined. 
There is no pericardial effusion.

No vegetations seen.

If clinically suggested, the absence of a vegetation by 2D 
echocardiography does not exclude endocarditis.  

CXR ___
The PICC line tip is at the level of cavoatrial junction. 
Cardiomediastinal
silhouette is unchanged including mild cardiomegaly. Lungs are 
essentially
clear except for scarring at the left lower lung laterally. No 
pleural
effusion, no pneumothorax noted.

 
Brief Hospital Course:
___ yo M  with type II diabetes mellitus, CAD (s/p 2 stents in 
___, and recent admission for work up of myositis was admitted 
with positive culture of left shoulder joint admitted with 
septic arthritis and found to be bacteremic and to ahve 
cellulitis.

#Septic Arthritis of Left AC joint, Bacteremia and Cellulitis:
Patient was found to have Beta Hemolytic Group G streptococuss 
septic arthritis and bactermeia.  He was originally started on 
vancomycin and then switched to vancomycin for better coverage 
of streptococus on ___.  He underwent an I&D of his left AC 
joint by orthopedics without complication.  After antibiotics 
were on board for multiple days patient remained afebrile. At no 
point was he hemodynamically under or showing signs of sepsis.  
For his foot cellulitis he had an xray and MRI which did not 
show any evidence of osteomyelitis.  In work-up for the source 
of this infection, he underwent a TTE which did not show any 
vegetations.  A TEE was deferred per Infectious disease as his 
course of treatment would not be changed.  A PICC Line was 
placed in his right antecub on ___ and position was verified 
with cxr.  He will be receiving home IV abx until ___. He 
will have follow- up in ID outpatient clinic, with weekly labs 
faxed to them by the ___.  He will have follow-up by orthopedics 
for his post-op I&D. He has follow-up with his own outside 
podiatrist for his foot ulcer and cellulitis. 

# Elevated alk phos-
The day prior to his discharge a repeat alkphos showed elevation 
compared to earlier in his hospitalization with an associated 
elevated GGT.  THe next day there was a decrease and ID felt 
comfortable with discharging him on ceftriaxone with weekly 
monitoring for any hepatic problems from the antibiotics.

#Constipation- 
Patient had constipation during his hospital stay. He at no time 
complained of abdominal pain, and moved his bowels prior to 
discharge. He was discharged on a bowel regimen and encouraged 
to use it while on narcotic pain medications.

#Diabetes, type 2 uncontrolled with complications-
Patient was kept on his home Insulin of 50units of glargine at 
bedtime except while NPO. He will be discharged on this same 
regimen without changes.

#HTN/CAD, native-
Patient had no episodes of hypertensive urgency or chest pain 
during his admission

Transitional Care
-Pt still has outstanding pending blood cultures
-Pt requires follow-up for physical therapy of his left foot and 
his left shoulder
-Pt will have follow-up with his PCP, ___, 
orthopedics and podiatry
-Pt will require weekly blood draws to be faxed to the ___ 
clinic
-Pt has a PICC line in his Right antecubital fossa, placed on 
___ and verified position by chest xray
-Pt is full code
-As this is his second admission during the past month there is 
concern for readmission, however as the etiology of his shoulder 
pain has been identified and is being treated with clinical 
improvement, it is unlikely he will be admitted.
-Pt is full code
 
Medications on Admission:
Insulin SC (per Insulin Flowsheet)  
Atenolol 25 mg PO/NG DAILY  
Losartan Potassium 25 mg PO/NG DAILY  
Aspirin 325 mg PO/NG DAILY  
Morphine Sulfate ___ mg IV Q4H:PRN pain  
Acetaminophen 1000 mg PO/NG Q 8H  
Docusate Sodium 100 mg PO BID  
Senna 1 TAB PO/NG BID:PRN constipation
 
Discharge Medications:
1. Outpatient Physical Therapy
Evaluate and Treat 
2x/week x 6weeks
2. ceftriaxone 2 gram Recon Soln Sig: One (1) bag Intravenous 
once a day for 36 days: Last dose ___.
Disp:*36 bags* Refills:*0*
3. lab draw
Please check weekly CBC with
diff, BUN/Cr, LFTS, ESR/CRP.
Please fax the results to the Infectious Disease clinic at ___ 
at fax ___, phone # ___ attn: Dr. 
___
4. atenolol 25 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  
5. aspirin 325 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  
6. senna 8.6 mg Tablet Sig: One (1) Tablet PO BID (2 times a 
day) as needed for constipation for 7 days: Please take daily to 
soften stool while taking pain medications.
Disp:*14 Tablet(s)* Refills:*0*
7. docusate sodium 100 mg Capsule Sig: One (1) Capsule PO BID (2 
times a day) as needed for constipation for 7 days: Please take 
if you have not moved your bowels for more than one day.
Disp:*14 Capsule(s)* Refills:*0*
8. losartan 25 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  
9. polyethylene glycol 3350 17 gram/dose Powder Sig: One (1)  PO 
BID (2 times a day) as needed for constipation for 7 days: 
Please take if you still have constipation after trying the 
docusate and senna for constipaion.
Disp:*14 * Refills:*0*
10. acetaminophen 500 mg Tablet Sig: Two (2) Tablet PO three 
times a day as needed for pain for 7 days: Do not take more than 
6 tablets in one day.
Disp:*42 Tablet(s)* Refills:*0*
11. Lantus 100 unit/mL Solution Sig: One (1)  Subcutaneous at 
bedtime: 50 units at bedtime.  
12. heparin flush
heparin flush per infusion guidelines
13. naproxen 250 mg Tablet Sig: One (1) Tablet PO three times a 
day as needed for pain for 6 days: Take one tablet with food 
three times a day as needed for pain. .
Disp:*21 Tablet(s)* Refills:*0*
14. Nitrostat 0.3 mg Tablet, Sublingual Sig: One (1)  Sublingual 
prn as needed for chest pain.  
15. oxycodone 5 mg Tablet Sig: Three (3) Tablet PO three times a 
day as needed for pain for 7 days: Please take ___ tablets by 
mouth up to three times a day for pain.  Do NOT drink alcohol or 
operate a vehicle while taking this medication. .
Disp:*30 Tablet(s)* Refills:*0*

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Septic arthritis
Bacteremia- Strep Group G
Cellulitis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted to the hospital because of positive bacteria 
cultures from your shoulder aspirate.  During your stay you were 
found to be bactermic (bacteria in your blood) and to have 
cellulitis of your left foot (skin infection of the skin of your 
left foot). You had a transthoracic echo (ultrasound of your 
heart) which showed no signs of endocarditis as the cause of the 
bacteremia.  The blood cultures and swab of shoulder joint grew 
out the bacteria Streptococcus Group G and we narrowed your 
antibiotic treatment to ceftriaxone which was started on 
___.  You had an Incision and Drainage of your shoulder to 
clean out the bacteria. This infection requires a long course of 
antibiotics so you were given a PICC (peripherally inserted 
central catheter)on ___ prior to being discharged to receive 
your antibiotics at home.  Your foot with the chronic ulcer on 
the left foot showed signs of cellulitis (infection of the skin) 
in the left foot. You had both an xray and an MRI which showed 
no evidence of osteomyelitis (bone infection) of the bones of 
your foot/ankle.  The cellulitis improved with your IV 
antibiotic treatment during your stay.  Physical therapy saw you 
and felt that you would benefit from outpatient physical therapy 
after discharge.
For your diabetes you were kept on your home dose of insulin. 
You were constipated throughout your hospital stay but passed 
stool on the day of discharge.
.
The following changes were made to your medications: 
Added-1. Ceftriaxone 2gm IV once a day(last dose to be given 
___
Added-2. Oxycodone ___ one tablet by mouth three times a day 
as needed for pain
Added- 3. Naproxen 250 mg, one tablet by mouth three times a day 
as needed for foot discomfort
Added- 4. Ducosate prn for constipation
Added- 5. Senna 
Added- 6. Miralax prn for constipation

 
Followup Instructions:
___